US08247429B2
N-[2-(5-chloro-2-methyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl)ethyl]acetamide
To a solution of N-[2-(5-chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]acetamide (79.5 mg, 0.274 mmol) in tetrahydrofuran (5 mL) was added 5% platinum-activated carbon (32 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 7 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→25/75), liquid chromatography (water/acetonitrile=90/10→0/100) and recrystallization (ethyl acetate/hexane) to give the title compound (23.3 mg, yield 29%).

reactant | N-[2-(5-chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]acetamide | 0.274 mmol, 79.5 mg | ClC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=CCNC(C)=O | C15H16ClN3O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | platinum | 32 mg | [Pt] | Pt
product | N-[2-(5-chloro-2-methyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl)ethyl]acetamide | 23.3 mg, yield 29% | ClC=1C2=C(C3=CN(N=C3C1)C)C(CC2)CCNC(C)=O | C15H18ClN3O
